US07402595B2
2-benzyl-6-bromo-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3-carboxylic acid
To a solution of 6-bromo-4-phenyl-3-isocoumarincarboxylic acid (1.00 g) in methanol (20 ml) was added benzylamine (3.16 ml) and the mixture was stirred at room temperature for 2 hrs. The solvent was evaporated under reduced pressure and 1N hydrochloric acid was added. The mixture was extracted with ethyl acetate. The extract was washed successively with 1N hydrochloric acid and saturated brine and magnesium sulfate was added to dry the mixture. The solvent was evaporated under reduced pressure, and 4N hydrogen chloride-ethyl acetate solution (17 ml) was added to the obtained residue, and the mixture was stirred at room temperature for 18 hrs. The solvent was evaporated under reduced pressure, and addition of water allowed crystal precipitation. The obtained crystals were collected by filtration, washed successively with water and ether and dried under reduced pressure at 50° C. to give the title compound (921 mg, 73%).

reactant | 6-bromo-4-phenyl-3-isocoumarincarboxylic acid | 1.00 g | BrC=1C=C2C(=C(OC(=O)C2=CC1)C(=O)O)C1=CC=CC=C1 | C16H9BrO4
reactant | benzylamine | 3.16 ml | C(C1=CC=CC=C1)N | C7H9N
solvent | methanol | 20 ml | CO | CH4O
product | 2-benzyl-6-bromo-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3-carboxylic acid | 921 mg, 73% | C(C1=CC=CC=C1)N1C(C2=CC=C(C=C2C(=C1C(=O)O)C1=CC=CC=C1)Br)=O | C23H16BrNO3
